US07875636B2
To a solution of 0.18 g (0.46 mmol) N-[(1R)-1-(5-bromopyridin-2-yl)ethyl]-2-[4-(5-methylisoxazol-4-yl)phenyl]acetamide in 0.50 ml CH3CN and 0.50 ml water was added 0.07 g (0.46 mmol) 2-vinyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane, 0.02 g (0.03 mmol) TXPTS, 0.003 g (0.01 mmol) Palladium (II) acetate, and 0.13 mL (0.92 mmol) diisopropylamine. After 20 min in the microwave at 120° C., the reaction mixture was cooled, extracted with CH2Cl2, and washed with brine. The organic layer was dried over NaSO4, filtered, and concentrated in vacuo. Purification by flash chromatography (1×14 cm silica gel, linear gradient 40-85% EtOAc:hexane) afforded 2-[4-(5-methylisoxazol-4-yl)phenyl]-N-[(1R)-1-(5-vinylpyridin-2-yl)ethyl]acetamide. Electrospray mass spec M+H=348.1.

reactant | N-[(1R)-1-(5-bromopyridin-2-yl)ethyl]-2-[4-(5-methylisoxazol-4-yl)phenyl]acetamide | 0.46 mmol, 0.18 g | BrC=1C=CC(=NC1)[C@@H](C)NC(CC1=CC=C(C=C1)C=1C=NOC1C)=O | C19H18BrN3O2
reactant | 2-vinyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.46 mmol, 0.07 g | C(=C)B1OC(C(O1)(C)C)(C)C | C8H15BO2
reactant | TXPTS | 0.03 mmol, 0.02 g | CC1=CC(=C(C=C1P(C2=CC(=C(C=C2C)C)S(=O)(=O)[O-])C3=CC(=C(C=C3C)C)S(=O)(=O)[O-])S(=O)(=O)[O-])C.[Na+].[Na+].[Na+]
reactant | diisopropylamine | 0.92 mmol, 0.13 mL | C(C)(C)NC(C)C | C6H15N
solvent | CH3CN | 0.50 ml | CC#N | C2H3N
solvent | water | 0.50 ml | O | H2O
catalyst | Palladium (II) acetate | 0.01 mmol, 0.003 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-[4-(5-methylisoxazol-4-yl)phenyl]-N-[(1R)-1-(5-vinylpyridin-2-yl)ethyl]acetamide | CC1=C(C=NO1)C1=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)C=C | C21H21N3O2
